US09371280B2
In a manner similar to the method described in Example 3, 2-hydroxyethyl 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoate was reacted with 2-(tert-butoxycarbonyl(methyl)amino)-acetic acid to give 4-{[(2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carbonyl]-amino}-3-methoxy-benzoic acid 2-[2-(tert-butoxycarbonyl-methyl-amino)-acetoxy]-ethyl ester. MS (ES+) m/z calcd. for C41H47Cl2F2N4O8: [(M+H)+]: 831. found: 831.

reactant | 2-hydroxyethyl 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoate | ClC=1C(=C(C=CC1)[C@H]1[C@@H](N[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NC1=C(C=C(C(=O)OCCO)C=C1)OC)F | C33H33Cl2F2N3O5
reactant | 2-(tert-butoxycarbonyl(methyl)amino)-acetic acid | C(C)(C)(C)OC(=O)N(CC(=O)O)C | C8H15NO4
product | 4-{[(2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carbonyl]-amino}-3-methoxy-benzoic acid 2-[2-(tert-butoxycarbonyl-methyl-amino)-acetoxy]-ethyl ester | C(C)(C)(C)OC(=O)N(CC(=O)OCCOC(C1=CC(=C(C=C1)NC(=O)[C@@H]1N[C@H]([C@]([C@H]1C1=C(C(=CC=C1)Cl)F)(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)OC)=O)C | C41H46Cl2F2N4O8
